* source SERS_PETRE_ADRIAN_432E
Q_Q9         N128465 N128759 N128785 QBC846B 
D_D1         0 N128759 BZX84-C5V1 
R_R48         N128759 N129289  2k TC=0,0 
R_R17         N1278650 N128037  1 TC=0,0 
R_R66         0 N128775  3.3k TC=0,0 
R_R65         0 N128775  3.3k TC=0,0 
R_R27         N128251 N128037  1 TC=0,0 
R_R72         N128015 N128251  1 TC=0,0 
Q_Q16         N128465 N128465 N128331 QBC856B 
R_R23         0 N129053  510 TC=0,0 
R_R44         N129295 N129301  1.5k TC=0,0 
Q_Q14         N127923 N128195 N128015 QMJD31C 
R_R62         0 N128059  2.2k TC=0,0 
R_R45         N129307 0  510 TC=0,0 
R_R2         N128397 N128059  5.6k TC=0,0 
R_R13         N128337 N127923  1k TC=0,0 
R_R61         0 N128059  2.7k TC=0,0 
R_R73         N128015 N1278650  1 TC=0,0 
R_R8         N135150 N127923  2k TC=0,0 
R_R25         0 N129005  220 TC=0,0 
R_R24         N128331 N127923  1k TC=0,0 
C_C2         N128059 0  10n  TC=0,0 
R_R51         N128239 N128245  1 TC=0,0 
X_R16         N128397 N128769 N128795 POT PARAMS: SET={SET} VALUE=10k
X_D3         N127923 N128823 LED PARAMS: IS=5.6404e-029 RS=30  BV=5 IBV=5e-6   
+       
R_R70         0 N129047  2k TC=0,0 
Q_Q17         N128369 N128465 N128337 QBC856B 
Q_Q10         N128369 N128769 N128785 QBC846B 
R_R69         N129047 N128823  2k TC=0,0 
R_R60         0 N128059  2.7k TC=0,0 
R_R67         0 N128775  1k TC=0,0 
Q_Q15         N128785 N128759 N129053 QBC846B 
R_R47         N129289 N129295  2k TC=0,0 
R_R59         0 N128059  2.7k TC=0,0 
R_R26         N128037 N128059  1 TC=0,0 
R_R64         N129043 N128823  2k TC=0,0 
Q_Q12         N127923 N128369 N128195 QBC846B 
R_R74         N128059 N128245  1 TC=0,0 
Q_Q26         N128369 N129033 0 QBC846B 
V_V1         N129918 0 26
Q_Q13         N128369 N128015 N128059 QBC846B 
X_D4         N128059 N128775 LED PARAMS: IS=5.6404e-029 RS=30  BV=5 IBV=5e-6   
+       
C_C1         0 N127923  10n  TC=0,0 
R_R50         N128037 N128239  0.47 TC=0,0 
R_R5         N129005 N128795  10k TC=0,0 
X_R46         N129307 N129033 N129301 POT PARAMS: SET=0.5 VALUE=500
R_R71         0 N129043  2k TC=0,0 
V_V2         N127923 N129918  AC 1
+SIN 0 1 100 0 0 0
R_R75         N135055 N127923  2k TC=0,0 
R_R76         N128759 N135150  2k TC=0,0 
R_R77         N128759 N135055  2k TC=0,0 
.PARAM  set=1
